US05428171
Step 1: Preparation of 3-ethenylbenzaldehyde
To a suspension of methyltriphenylphosphonium bromide (27.2 g) in THF (200 mL) at 0° was added dropwise n-butyllithium (47 mL of 1.6M in hexane). The reaction mixture was stirred 30 min at 0° and cooled to -10°. The reaction mixture at -10° was transferred dropwise through a canula to a solution of isophthalaldehyde (10.0 g) in THF (300 mL) at -50°. The reaction was allowed to warm up to room temperature. After 3.5 hours at room temperature the reaction mixture was quenched with NH4OAc buffer (200 mL). The reaction mixture was extracted with ethyl acetate, dried over sodium sulfate and evaporated. Flash chromatography of the residue starting with 10% and finishing with 15% of diethyl ether in hexane afforded the title compound.

reactant | n-butyllithium | 1.6M, 47 mL | C(CCC)[Li]
reactant | isophthalaldehyde | 10.0 g | C(C1=CC(C=O)=CC=C1)=O | C8H6O2
catalyst | methyltriphenylphosphonium bromide | 27.2 g | [Br-].C[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 300 mL | C1CCOC1 | C4H8O
product | 3-ethenylbenzaldehyde | C(=C)C=1C=C(C=O)C=CC1 | C9H8O
